US05728500
20.96 g (0.06 mol) of 5-[N-(4-formylphenyl)-N-phenylamino]acenaphthene prepared in Preparation Example 1 and 17.44 g (0.072 mol) of diethyl 4-methylbenzyl phosphonate were dissolved in 300 ml of N,N-dimethylformamide, and 10.1 g (0.09 mol) of potassium-tert-butoxide was added thereto at room temperature for 20 minutes. After the addition, the resultant mixture was further stirred for 2 hours. The reaction was determined to be finished when disappearance of the formyl compound was identified. The reaction product was poured into 1500 ml of methanol at a temperature of 5° C. or lower, and 150 ml of water was further dropwise added thereto to precipitate a crystal, which was then filtrated, washed with methanol and dried to obtain 22.18 g (yield: 84.5%) of a crude crystal. 21.0 g of the crude crystal thus obtained was purified by column chromatography (carrier: silica gel, eluent: toluene/hexane=1/4) to obtain 17.85 g of (purification yield: 85.0%, melting point: 148.0°-149.0° C.) of 5-{N-[4-(4-methylstyryl)phenyl]-N-phenylamino}acenaphthene (Compound No. 4).

reactant | 5-[N-(4-formylphenyl)-N-phenylamino]acenaphthene | 0.06 mol, 20.96 g | C(=O)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32 | C25H19NO
reactant | potassium-tert-butoxide | 0.09 mol, 10.1 g | CC(C)([O-])C.[K+]
reactant | methanol | 1500 ml | CO | CH4O
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5-{N-[4-(4-methylstyryl)phenyl]-N-phenylamino}acenaphthene | yield: 85.0% | CC1=CC=C(C=CC2=CC=C(C=C2)N(C2=CC=CC=C2)C2=CC=C3CCC=4C=CC=C2C43)C=C1 | C33H27N
